US06525049B2
To a suspension of N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (581.4 mg) and PdCl2(PPh3)2 (37.9 mg) in Et3N (20 mL) is added CuI (10.3 mg) and 3-butyn-1-ol (0.082 mL). The reaction is stirred at room temperature for 2 days under N2. After 2 days the solvent evaporates. The resulting solid is dissolved in CH2Cl2 and partitioned against H2O. The aqueous layer is extracted with CH2Cl2 (2×). The combined organic layers are washed with brine (1×), dried over Na2SO4, filtered, and condensed. The crude solid is adsorbed onto silica and chromatographed (Biotage flash 40S, gradient from CH2Cl2 to 3% MeOH in CH2Cl2). Product-containing fractions are combined and concentrated to yield a creme solid. The solid is recrystallized from hot acetonitrile to afford 290 mg (56%) of N-(4-chlorobenzyl)-2-(2-hydroxyethyl)-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide as an off-white solid, m.p. 169-172° C.

reactant | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 581.4 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CN2CCOCC2)I)C=C1 | C22H21ClIN3O3
reactant | 3-butyn-1-ol | 0.082 mL | C(CC#C)O | C4H6O
solvent | Et3N | 20 mL | CCN(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 37.9 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 10.3 mg | [Cu]I
product | N-(4-chlorobenzyl)-2-(2-hydroxyethyl)-8-(4-morpholinylmethyl)-6-oxo-6H-pyrrolo[3,2,1-ij]quinoline-5-carboxamide | 290 mg, 56% | ClC1=CC=C(CNC(=O)C2=CN3C4=C(C=C(C=C4C2=O)CN2CCOCC2)C=C3CCO)C=C1 | C26H26ClN3O4
